US04408076
Thionyl chloride (20 ml.) is added to 4-[4-(2-chloro-4-trifluoromethylphenoxy)phenoxy]-3-methoxy-2-pentenoic acid (10 mm.) in anhydrous ether (10 ml.). The mixture is refluxed for a few hours. Then, ether and excess thionyl chloride is removed by vacuum to yield 4-[4-(2-chloro-4-trifluoromethylphenoxy)phenoxy]-3-methoxy-2-pentenoyl chloride.

reactant | Thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-[4-(2-chloro-4-trifluoromethylphenoxy)phenoxy]-3-methoxy-2-pentenoic acid | ClC1=C(OC2=CC=C(OC(C(=CC(=O)O)OC)C)C=C2)C=CC(=C1)C(F)(F)F | C19H16ClF3O5
solvent | ether | 10 ml | CCOCC | C4H10O
product | 4-[4-(2-chloro-4-trifluoromethylphenoxy)phenoxy]-3-methoxy-2-pentenoyl chloride | ClC1=C(OC2=CC=C(OC(C(=CC(=O)Cl)OC)C)C=C2)C=CC(=C1)C(F)(F)F | C19H15Cl2F3O4
